US04395550
(c) 1-Isopropyl-7-methyl-quinazolin-2,4(1H,3H)-dione
To a suspension of 300 g 2-(N-isopropyl-N-carbomethoxyamino)-4-methyl-benzonitrile in 750 ml of ethanol and 234 ml 10N sodium hydroxide are added dropwise over 80 minutes 576 g of a 40% solution of hydrogen peroxide. The resulting clear solution is acidified with 195 ml of concentrated hydrochloric acid, whereupon the title compound precipitates, m.p. 250°-251°.

reactant | 2-(N-isopropyl-N-carbomethoxyamino)-4-methyl-benzonitrile | 300 g | C(C)(C)N(C(=O)OC)C1=C(C#N)C=CC(=C1)C | C13H16N2O2
reactant | hydrogen peroxide | OO | H2O2
reactant | hydrochloric acid | 195 ml | Cl | ClH
solvent | ethanol | 750 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 10N, 234 ml | [OH-].[Na+]
product | 1-Isopropyl-7-methyl-quinazolin-2,4(1H,3H)-dione | C(C)(C)N1C(NC(C2=CC=C(C=C12)C)=O)=O | C12H14N2O2
